US07816522B2
After adding 13 mg of 2-hydrazinopyrimidine and 0.016 ml of triethylamine to a solution of 69 mg of (2-{2-fluoro-5-methoxy-3-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene)carbamic acid methyl ester in 1 ml of DMF, the mixture was stirred at 85° C. for 16 hours under a nitrogen atmosphere. The reaction mixture was concentrated to give a crude product of 5-({2-fluoro-5-methoxy-3-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]methyl)-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one.

reactant | 2-hydrazinopyrimidine | 13 mg | N(N)C1=NC=CC=N1 | C4H6N4
reactant | triethylamine | 0.016 ml | C(C)N(CC)CC | C6H15N
reactant | (2-{2-fluoro-5-methoxy-3-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene)carbamic acid methyl ester | 69 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)OC)OCCOC1OCCCC1)F)SC)=O | C28H31FN4O7S
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 5-({2-fluoro-5-methoxy-3-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl}-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]methyl)-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one | FC1=C(C=C(C=C1OCCOC1OCCCC1)OC)C(C=1NC(N(N1)C1=NC=CC=N1)=O)=NC1=CC=C(C=C1)C1=NOC(=N1)C | C30H29FN8O6
